US04220654
Ethyl 2-(1-benzyl-5-methyl-4-imidazolyl)-4-oxotetrahydrothiophene-5(and/or 3)-carboxylate (12.6 g., 0.037 mole) is dissolved in 20 ml. of water containing concentrated sulfuric acid (1.11 ml., 0.02 mole) and the solution is refluxed for 31/4 hours. The reaction mixture is diluted with 50 ml. of water and is washed with ether. The aqueous layer is made basic with sodium carbonate and the oil which separates is extracted into chloroform. The extract is washed with water, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The product 2-(1-benzyl-5-methyl-4-imidazolyl)-4-oxotetrahydrothiophene is isolated a brown gum (7.8 g.).

reactant | Ethyl 2-(1-benzyl-5-methyl-4-imidazolyl)-4-oxotetrahydrothiophene | C(C)C1(SCC(C1)=O)C=1N=CN(C1C)CC1=CC=CC=C1 | C17H20N2OS
reactant | water | 0.02 mole, 1.11 ml | O | H2O
product | 2-(1-benzyl-5-methyl-4-imidazolyl)-4-oxotetrahydrothiophene | C(C1=CC=CC=C1)N1C=NC(=C1C)C1SCC(C1)=O | C15H16N2OS
